US07544703B2
N-(4-tert-Butylphenyl)-2-(2-chloroacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 16-1)
N-(4-tert-Butylphenyl)-2-(2-hydroxyacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 12-8, 250 mg, 0.55 mmol) was suspended in anhydrous dichloromethane (5.0 mL) under ice-cooling, and thionyl chloride (80 μL, 1.1 mmol) was added thereto. The mixture was stirred for 6 hours at room temperature, and the solvent was evaporated under reduced pressure. The resulting solid was filtered off with ethyl acetate and washed with diethyl ether to give 270 mg of the target compound quantitatively as a pale yellow solid.

reactant | N-(4-tert-Butylphenyl)-2-(2-hydroxyacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SC(C1=CC=NC=C1)NC(CO)=O | C24H26N4O3S
reactant | thionyl chloride | 1.1 mmol, 80 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | N-(4-tert-Butylphenyl)-2-(2-chloroacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide | 270 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SC(C1=CC=NC=C1)NC(CCl)=O | C24H25ClN4O2S
